US08372842B2
Methylzinc (II) chloride (2M solution in THF, 1244 μL, 2.488 mmol) was added to a solution of tert-butyl 4-(5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (500 mg, 0.995 mmol) and Pd(PPh3)4 (86.25 mg, 0.07464 mmol) in THF (5 mL) under a nitrogen atmosphere. The reaction mixture was stirred at 75° C. for 1.5 hours and allowed to cool to room temperature. The mixture was poured into a saturated aqueous NH4Cl solution (50 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were dried (MgSO4), filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography on silica gel (Biotage Flash 40S+) eluting with 2% MeOH/CH2Cl2 to provide tert-butyl 4-(1-(4-methoxybenzyl)-5-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (470 mg, 0.806 mmol, 81.0% yield) as a solid. LCMS (APCI+) m/z 438.2 (M+H)+.

reactant | Methylzinc (II) chloride | 2.488 mmol, 2M, 1244 μL | [Cl-].C[Zn+]
reactant | tert-butyl 4-(5-bromo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.995 mmol, 500 mg | BrC=1C(=C2C(=NC1)N(N=C2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C23H28BrN5O3
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.07464 mmol, 86.25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(1-(4-methoxybenzyl)-5-methyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.806 mmol, 470 mg, 81.0% yield | COC1=CC=C(CN2N=CC=3C2=NC=C(C3N3CCN(CC3)C(=O)OC(C)(C)C)C)C=C1 | C24H31N5O3
